US04778912
2-(Benzoyloxy)-3-(octadecyloxy)propyl 10-trimethylammoniodecyl phosphate
2.24 g (5.0 mmole) of 2-benzoyloxy-3-octadecyloxypropanol was dissolved in 20 ml of ethanol-free chloroform and 2.63 g (26.0 mmole) of dry triethylamine was added thereto under ice-cooling. Then, 0.81 g (5.3 mmole) of phosphorus oxychloride in 40 ml of ethanol-free chloroform was further added, and the resulting mixture was stirred under ice-cooling for 30 minutes and at room temperature for 1 hour. This reaction mixture was again cooled on ice, and 2.80 g (7.5 mmole) of 10-trimethylammoniodecylalcohol monotosylate in 80 ml of dry pyridine was added thereto. The reaction mixture was stirred under ice-cooling for 30 minutes and at room temperature for 18 hours. To the reaction mixture was added an aqueous solution containing 3.5 g sodium hydrogencarbonate and the resulting mixture was concentrated to dryness under reduced pressure. The residue was purified by column chromatography on Amberlite resin (IR-120: IRA-410=1:2; eluent: 95% THF) and then further by column chromatography on silica gel (Merck, Art 7734; eluent: chloroform-methanol-water=65:25:4) to give 1.57 g (yield: 43.4%) of the desired product.

reactant | 2-benzoyloxy-3-octadecyloxypropanol | 5.0 mmole, 2.24 g | C(C1=CC=CC=C1)(=O)OC(CO)COCCCCCCCCCCCCCCCCCC | C28H48O4
reactant | triethylamine | 26.0 mmole, 2.63 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 5.3 mmole, 0.81 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 10-trimethylammoniodecylalcohol monotosylate | 7.5 mmole, 2.80 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCC[N+](C)(C)C
reactant | sodium hydrogencarbonate | 3.5 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Benzoyloxy)-3-(octadecyloxy)propyl 10-trimethylammoniodecyl phosphate | 1.57 g, yield: 43.4% | P(=O)(OCC(COCCCCCCCCCCCCCCCCCC)OC(C1=CC=CC=C1)=O)(OCCCCCCCCCC[N+](C)(C)C)[O-] | C41H76NO7P
